US08114893B2
Step 1: Preparation of 2-(3-(dimethylamino)phenoxy)ethyl acetate (39A)
2-Bromoethyl acetate (1.34 g, 4.01 mmol) was added to a suspension of 3-(dimethylamino)phenol (0.50 g, 3.64 mmol) and K2CO3 (1.5 g, 10.8 mmol) in anhydrous DMF (3 mL). The reaction mixture was heated to 80° C. for 18 hours, cooled to rt, diluted with water, extracted with DCM. The organic phases were washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The crude material was purified by column chromatography on silica gel eluting with a gradient of PE:EtOAc 90:10-80:20, to provide the desired compound 2-(3-(dimethylamino)phenoxy)ethyl acetate (39A).

reactant | 2-Bromoethyl acetate | 4.01 mmol, 1.34 g | C(C)(=O)OCCBr | C4H7BrO2
reactant | 3-(dimethylamino)phenol | 3.64 mmol, 0.50 g | CN(C=1C=C(C=CC1)O)C | C8H11NO
reactant | K2CO3 | 10.8 mmol, 1.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(3-(dimethylamino)phenoxy)ethyl acetate | C(C)(=O)OCCOC1=CC(=CC=C1)N(C)C | C12H17NO3
